US05688810
To a solution of 1-tert-butoxycarbonyl-1,2,3,4-tetrahydro-2,2-dimethyl-4-quinolinone (0.10 g, 0.36 mmol) and iodomethane (0.50 mL, 8.0 mmol) in DMF (4 mL) was added NaH (60% in mineral oil, 20 mg, 0.50 mmol) and the resulting mixture was stirred at rt for 2 h. The reaction was quenched with water (5 mL) and was extracted with EtOAc (2×15 mL). Removal of solvent and chromatography of the crude residue on a silica gel column using a 10% mixture of EtOAc and hexane as solvents afforded 90 mg (86%) of 1-tert-butoxycarbonyl-1,2,3,4-tetrahydro-2,2,3-trimethyl-4-quinolinone as a colorless oil. The oil (90 mg, 0.32 mmol) was treated with NaBH4 (50 mg, 1.3 mmol) in methanol (5 mL) for 1 h and the reaction mixture was concentrated. Filtration from the inorganic material through a silica gel pad provided a colorless oil, which was then subjected to hydrogenation over 10% Pd/C (10 mg) in EtOAc (5 mL) under a hydrogen balloon for 15 h. Filtration from the catalyst through a Celite™ pad followed by removal of solvent gave 70 mg (82%) of 1-tert-butoxycarbonyl-1,2,3,4-tetrahydro-2,2,3-trimethylquinoline as a colorless oil. The crude oil (70 mg, 0.26 mmol) was treated with TFA (0.50 mL, 6.5 mmol) in CH2Cl2 for 30 min. and was quenched with 5% NaOH (6 mL). The mixture was extracted with EtOAc (2×15 mL) and was concentrated. Chromatography on silica gel using a 10% mixture of EtOAc and hexane afforded 1,2,3,4-tetrahydro-2,2,3-trimethylquinoline as a colorless oil (40 mg, 89%). Data for 1,2,3,4-tetrahydro-2,2,3-trimethylquinoline: 1H NMR (400 MHz, CDCl3) 7.00-6.91 (m, 2H), 6.60 (t, J=7.3, 1H), 6.45 (d, J=7.3, 1H), 3.61 (br s, 1H), 2.74 (dd, J=16.6, 5.3, 1H), 2.47 (dd, J=16.6, 10.3, 1H), 1.82 (m, 1H), 1.20 (s, 3H), 1.05 (s, 3H), 0.97 (d, J=7.2, 3H).

reactant | 1-tert-butoxycarbonyl-1,2,3,4-tetrahydro-2,2-dimethyl-4-quinolinone | 0.36 mmol, 0.10 g | C(C)(C)(C)OC(=O)N1C(CC(C2=CC=CC=C12)=O)(C)C | C16H21NO3
reactant | iodomethane | 8.0 mmol, 0.50 mL | IC | CH3I
reactant | NaH | 0.50 mmol, 20 mg | [H-].[Na+]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 1-tert-butoxycarbonyl-1,2,3,4-tetrahydro-2,2,3-trimethyl-4-quinolinone | 90 mg, 86% | C(C)(C)(C)OC(=O)N1C(C(C(C2=CC=CC=C12)=O)C)(C)C | C17H23NO3
